US08871361B2
Synthesis of 5-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-[1,1′-biphenyl]-3-ol
To a 250 mL round bottom flask was added 1-(2,6-diisopropylphenyl)-2-(5-methoxy-[1,1′-biphenyl]-3-yl)-1H-imidazole (6.9 g, 16.81 mmol) and pyridine hydrochloride (15.85 g, 134 mmol). The reaction mixture was heated to 190° C. under a nitrogen atmosphere. After 4 hours the reaction mixture was cooled and water was added. A gray solid was filtered off and washed with water. The solid was dried under vacuum and 5.7 g of product was obtained.

reactant | 1-(2,6-diisopropylphenyl)-2-(5-methoxy-[1,1′-biphenyl]-3-yl)-1H-imidazole | 16.81 mmol, 6.9 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(C=C(C1)OC)C1=CC=CC=C1 | C28H30N2O
reactant | pyridine hydrochloride | 134 mmol, 15.85 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 5-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-[1,1′-biphenyl]-3-ol | 5.7 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(C=C(C1)C1=CC=CC=C1)O | C27H28N2O
